### PR TITLE
[Merged by Bors] - feat: measurability of uniqueElim and piFinsetUnion

### PR DESCRIPTION
**Pull request by fpvandoorn**
* The extra import doesn't add any additional imports transitively
* Also use implicit arguments for some `MeasurableSpace` arguments for consistency with other lemmas.
* Redefine `Equiv.piSubsingleton` and `MulEquiv.piSubsingleton` to `Equiv.piUnique` and `MulEquiv.piUnique`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Constructions/Pi.lean [hunk 1]
```diff
@@ -780,7 +780,7 @@ theorem volume_measurePreserving_sumPiEquivProdPi_symm (π : ι ⊕ ι' → Type
     MeasurePreserving (MeasurableEquiv.sumPiEquivProdPi π).symm volume volume :=
   measurePreserving_sumPiEquivProdPi_symm (fun _ ↦ volume)
 
-theorem measurePreserving_sumPiEquivProdPi {π : ι ⊕ ι' → Type*} [∀ i, MeasurableSpace (π i)]
+theorem measurePreserving_sumPiEquivProdPi {π : ι ⊕ ι' → Type*} {_m : ∀ i, MeasurableSpace (π i)}
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Constructions/Pi.lean:783]: I think this change to implicit arguments is worth at least one of:
* A mention in the PR description
* A library note
* A change to core to make this not necessary in the first place 🙃

File: Mathlib/MeasureTheory/Constructions/Pi.lean [hunk 2]
```diff
@@ -877,6 +888,20 @@ theorem volume_preserving_pi_empty {ι : Type u} (α : ι → Type v) [IsEmpty 
   measurePreserving_pi_empty fun _ => volume
 #align measure_theory.volume_preserving_pi_empty MeasureTheory.volume_preserving_pi_empty
 
+theorem measurePreserving_piFinsetUnion [DecidableEq ι] {s t : Finset ι} (h : Disjoint s t)
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Constructions/Pi.lean:891]:
```suggestion
theorem measurePreserving_pi_finsetUnion [DecidableEq ι] {s t : Finset ι} (h : Disjoint s t)
```

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 3]
```diff
@@ -1630,12 +1641,23 @@ def piMeasurableEquivTProd [DecidableEq δ'] {l : List δ'} (hnd : l.Nodup) (h :
...
+variable (π) in
+/-- The measurable equivalence `(∀ i, π i) ≃ᵐ π ⋆` when the domain of `π` only contains `⋆` -/
+@[simps (config := .asFn)]
+def piUnique [Unique δ'] : (∀ i, π i) ≃ᵐ π default where
+  toFun := fun f => f default
+  invFun := uniqueElim
+  left_inv := fun f => funext fun i => by
+    cases Unique.eq_default i
+    rfl
+  right_inv := fun x => rfl
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1653]: nit:
```suggestion
  toFun f := f default
  invFun := uniqueElim
  left_inv x := funext fun i => by
    cases Unique.eq_default i
    rfl
  right_inv x := rfl
```

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 4]
```diff
@@ -1630,12 +1641,23 @@ def piMeasurableEquivTProd [DecidableEq δ'] {l : List δ'} (hnd : l.Nodup) (h :
...
+  measurable_toFun := measurable_pi_apply _
+  measurable_invFun := measurable_uniqueElim
+
 /-- If `α` has a unique term, then the type of function `α → β` is measurably equivalent to `β`. -/
 @[simps! (config := { fullyApplied := false })]
-def funUnique (α β : Type*) [Unique α] [MeasurableSpace β] : (α → β) ≃ᵐ β where
-  toEquiv := Equiv.funUnique α β
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1636]: Do we have `Equiv.piUnique`? If so, can we use it above?

File: Mathlib/MeasureTheory/Constructions/Pi.lean (hunk 1 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/Constructions/Pi.lean:783]: I added it to the PR description.
I believe this is done to work with multiple `MeasurableSpace` instances on the same type. 
I personally don't care about this, and this change is not necessary for me, but I wanted to uniformize it.

**Review by eric-wieser — APPROVED** [review]
bors d+

File: Mathlib/MeasureTheory/Constructions/Pi.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/MeasureTheory/Constructions/Pi.lean:783]: Maybe worth mentioning that the motivation was "for consistency with other lemmas"

File: Mathlib/Logic/Equiv/Defs.lean [hunk 5]
```diff
@@ -625,6 +625,14 @@ is equivalent to `β a`. -/
 #align equiv.Pi_subsingleton_symm_apply Equiv.piSubsingleton_symm_apply
 #align equiv.Pi_subsingleton Equiv.piSubsingleton
 
+/-- The equivalence `(∀ i, β i) ≃ β ⋆` when the domain of `β` only contains `⋆` -/
+@[simps (config := .asFn)]
+def piUnique [Unique α] (β : α → Sort*) : (∀ i, β i) ≃ β default where
+  toFun f := f default
+  invFun := uniqueElim
+  left_inv f := by ext i; cases Unique.eq_default i; rfl
+  right_inv x := rfl
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Defs.lean:634]: Maybe:
```suggestion
abbrev piUnique [Unique α] (β : α → Sort*) : (∀ i, β i) ≃ β default := piSubsingleton
```

Comment (fpvandoorn) [reply Mathlib/Logic/Equiv/Defs.lean:623]: I have removed `piSubsingleton` and now use exclusively use `piUnique`.
* There was only one use of `piSubsingleton` in mathlib, which is on a type that has the `Unique` class. 
* I think that stating it for `Unique` is more natural than for a subsingleton type with an element. 
* `piSubsingleton_symm_apply` was bad, since it would unfold the equivalence to a very ugly expression with casts. (for `piUnique` that is hidden behind the function `uniqueElim`).

File: Mathlib/Algebra/Group/Equiv/Basic.lean [hunk 6]
```diff
@@ -708,15 +708,15 @@ index. -/
...
-    (i : ι) : (∀ j, M j) ≃* M i :=
-  { Equiv.piSubsingleton M i with map_mul' := fun _ _ => Pi.mul_apply _ _ _ }
-#align mul_equiv.Pi_subsingleton MulEquiv.piSubsingleton
-#align add_equiv.Pi_subsingleton AddEquiv.piSubsingleton
-#align mul_equiv.Pi_subsingleton_apply MulEquiv.piSubsingleton_apply
-#align add_equiv.Pi_subsingleton_apply AddEquiv.piSubsingleton_apply
-#align mul_equiv.Pi_subsingleton_symm_apply MulEquiv.piSubsingleton_symm_apply
-#align add_equiv.Pi_subsingleton_symm_apply AddEquiv.piSubsingleton_symm_apply
+def piUnique {ι : Type*} (M : ι → Type*) [∀ j, Mul (M j)] [Unique ι] :
+    (∀ j, M j) ≃* M default :=
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Equiv/Basic.lean:712]: This new definition is syntactically less general, and seems like it might cause awkward dependent type issues. Is there a reason this is preferrable to the old `piSubsingleton`?

File: Mathlib/Logic/Equiv/Defs.lean (hunk 5 above)
Comment (eric-wieser) [reply Mathlib/Logic/Equiv/Defs.lean:623]: I guess the existence of `uniqueElim` and the absense of `subsingletonElim i` is a convincing enough argument for why `piUnique` is overkill.

Comment (eric-wieser) [reply Mathlib/Logic/Equiv/Defs.lean:623]: It turns out that I was the one who asked for this in the first place, in https://github.com/leanprover-community/mathlib/pull/12040#discussion_r806349297. The original motivation was to avoid a `convert`, but it seems you don't have one of those any more anyway.

Comment (fpvandoorn) [reply Mathlib/Logic/Equiv/Defs.lean:623]: It turned out to require still some changes in the `Sylow` file, but I don't think they are deteriorations: we had a `Inhabited` and `Subsingleton` instances on `Sylow G p` (under conditions), so it makes sense to upgrade this to a `Unique` instance.

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 7]
```diff
@@ -1630,12 +1641,18 @@ def piMeasurableEquivTProd [DecidableEq δ'] {l : List δ'} (hnd : l.Nodup) (h :
   measurable_invFun := measurable_tProd_elim' h
 #align measurable_equiv.pi_measurable_equiv_tprod MeasurableEquiv.piMeasurableEquivTProd
 
+variable (π) in
+/-- The measurable equivalence `(∀ i, π i) ≃ᵐ π ⋆` when the domain of `π` only contains `⋆` -/
+@[simps! (config := .asFn)]
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1646]: I've never seen this `.asFn` before; should we be using it more often?

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean [hunk 8]
```diff
@@ -1695,6 +1712,14 @@ theorem coe_sumPiEquivProdPi (α : δ ⊕ δ' → Type*) [∀ i, MeasurableSpace
 theorem coe_sumPiEquivProdPi_symm (α : δ ⊕ δ' → Type*) [∀ i, MeasurableSpace (α i)] :
     ⇑(MeasurableEquiv.sumPiEquivProdPi α).symm = (Equiv.sumPiEquivProdPi α).symm := by rfl
 
+/-- The measurable equivalence `(∀ i : s, π i) × (∀ i : t, π i) ≃ᵐ (∀ i : s ∪ t, π i)`
+  for disjoint finsets `s` and `t`. `Equiv.piFinsetUnion` as a measurable equivalence. -/
+def piFinsetUnion [DecidableEq δ'] {s t : Finset δ'} (h : Disjoint s t) :
+    ((∀ i : s, π i) × ∀ i : t, π i) ≃ᵐ ∀ i : (s ∪ t : Finset δ'), π i :=
+  let e := Finset.union s t h
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1719]:
```suggestion
  letI e := Finset.union s t h
```
would probably reduce more nicely

**Review by eric-wieser — APPROVED** [review]
bors d+

Thanks!

File: Mathlib/MeasureTheory/MeasurableSpace/Basic.lean (hunk 7 above)
Comment (fpvandoorn) [reply Mathlib/MeasureTheory/MeasurableSpace/Basic.lean:1646]: Sure, we can use it by default: #8296

**Comment by fpvandoorn** [comment]
bors merge
